US08486939B2
A solution of 3-aminopyridine (2 g, 21 mmol) in 100 mL THF was treated with 10.6 mL (21 mmol) 2 M LDA in THF to give a suspension which was treated with 1.81 g (5 mmol) of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(methylsulfanyl)-1H-benzimidazole at room temperature. After 5 min, the mixture was neutralized with HOAc and diluted with water to give 1.65 g (78%) of 4-[2-(methylsulfanyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-(3-pyridinyl)-1,3,5-triazin-2-amine: mp (CHCl3/EtOH) 240-241° C.; 1H NMR (CDCl3) δ 8.85 (br s, 1H), 8.39 (d, J=4.0 Hz, 1H), 8.34 (d, J=7.5 Hz, 1H), 8.02 (d, J=7.3 Hz, 1H), 7.66 (dd, J=7.9, 0.5 Hz, 1H), 7.32 (dd, J=8.5, 4.9 Hz, 1H), 7.28 (dt, J=7.3, 1.1 Hz, 1H), 7.22 (t, J=7.4 Hz, 1H), 7.15 (br s, exchangeable with D2O, 1H), 4.05 (m, 2H), 3.90 (m, 2H), 3.81 (m, 4H), 2.73 (s, 3H); Anal. Calcd. for C20H20N8OS: C, 57.1; H, 4.8; N, 26.65. Found: C, 57.0; H, 4.9; N, 27.0%.

reactant | 3-aminopyridine | 21 mmol, 2 g | NC=1C=NC=CC1 | C5H6N2
reactant | LDA | 21 mmol, 2 M, 10.6 mL | [Li+].CC(C)[N-]C(C)C
reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(methylsulfanyl)-1H-benzimidazole | 5 mmol, 1.81 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)SC | C15H15ClN6OS
reactant | HOAc | CC(=O)O | C2H4O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-[2-(methylsulfanyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-(3-pyridinyl)-1,3,5-triazin-2-amine | 1.65 g, 78% | CSC1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)NC=1C=NC=CC1)C=CC=C2 | C20H20N8OS
